US07582626B2
a) cis-2-Amino-cyclooctanecarboxylic acid methyl ester
cis-2-Amino-cyclooctanecarboxylic acid (0.65 g, 3.8 mmol) was dissolved in methanol (5 mL). Benzene (7.5 mL) was added followed by dropwise addition of a 2.0 M solution of (trimethylsilyl)diazomethane in diethyl ether (3.5 mL). The yellow solution was stirred at 25° C. for 45 min. The solution was concentrated in vacuo. The residue was dissolved in methanol (20 mL) and concentrated in vacuo to afford the desired product, cis-2-amino-cyclooctanecarboxylic acid methyl ester (0.66 g, 3.56 mmol, 94%), as a colorless oil. LC-MS (ESI) calcd for C10H19NO2 185.14, found 186.2 [M+H+].

reactant | cis-2-Amino-cyclooctanecarboxylic acid | 3.8 mmol, 0.65 g | N[C@@H]1[C@@H](CCCCCC1)C(=O)O | C9H17NO2
reactant | Benzene | 7.5 mL | C1=CC=CC=C1 | C6H6
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 5 mL | CO | CH4O
solvent | diethyl ether | 3.5 mL | C(C)OCC | C4H10O
product | cis-2-amino-cyclooctanecarboxylic acid methyl ester | 3.56 mmol, 0.66 g, 94% | COC(=O)[C@H]1[C@H](CCCCCC1)N | C10H19NO2
